US05613985
2-Methyl-2-hydroxymethyl-2,3-dihydroperimidine, hydrosulphate
A mixture of 79.1 g of 1,8-diaminonaphthalene, 57.4 g of 96% strength sulphuric acid and 700 ml of water is initially introduced into the reaction vessel at 50° C., and 57.8 g of hydroxy acetone are metered in over a period of 10 minutes. The mixture is then subsequently stirred at 50° C. for 2 hours and cooled to 0° C., and the product is isolated by filtration and dried at 70° C. in vacuo.

reactant | 1,8-diaminonaphthalene | 79.1 g | NC1=CC=CC2=CC=CC(=C12)N | C10H10N2
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | hydroxy acetone | 57.8 g | OCC(C)=O | C3H6O2
solvent | water | 700 ml | O | H2O
product | 2-Methyl-2-hydroxymethyl-2,3-dihydroperimidine | CC1(NC=2C=CC=C3C=CC=C(N1)C23)CO | C13H14N2O
